US04507498
A solution of 2.35 g (0.004 mole) of [4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester in 50 ml of methanol and 20 ml (0.02 mole) of 1.0N sodium hydroxide was stirred at reflux for 90 minutes. Most of the solvent was removed in vacuo and the pH of the residue was adjusted to 2.0 with 6N HCl. The gummy product was extracted with methylene chloride. The dried (magnesium sulfate) extract was concentrated in vacuo and the residue was crystallized from methylene chloride-hexane to give 2.06 g (92% yield) of [4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid, mp 74°-77°.

reactant | [4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester | 0.004 mole, 2.35 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C32H44O10
reactant | sodium hydroxide | 0.02 mole, 1.0N, 20 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | [4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid | 2.06 g, 92% yield | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)OCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C30H40O10
